US07390910B2
tert-butyl (1S)-1-{[[(1S,2E)-3-cyano-1-isopropyl-2-propenyl](methyl)amino]carbonyl}-2,2-dimethylpropylcarbamate
To a solution of (E,4S)-5-methyl-4-(methylamino)-2-hexenenitrile trifluoroacetic acid (−1.68 mmol, from Reference Example 14), 2-tert-Butoxycarbonylamino-3,3-dimethyl-butyric acid (389 mg, 1.68 mmol), (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate (PyBOP, 916 mg, 1.76 mmol) in dichloromethane (5 mL) at OC is added Hunig's base (0.877 mL, 5.04 mmol). After 5 min the cooling bath is removed. After 24 h 5% aqueous citric acid is added. The aqueous phase is washed with dichloromethane three times. The combined organic extracts are dried over anhydrous magnesium sulfate and concentrated in vacuo to give an oil. Chromatography (silica gel, hexane/ether) gave the title compound as a yellow foam (200 mg). MS (ES): m/z 352.0 (M+H)

reactant | 2-tert-Butoxycarbonylamino-3,3-dimethyl-butyric acid | 1.68 mmol, 389 mg | C(C)(C)(C)OC(=O)NC(C(=O)O)C(C)(C)C | C11H21NO4
reactant | (benzotriazol-1-yloxy)tripyrrolidinophosphonium hexafluorophosphate | 1.76 mmol, 916 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | Hunig's base | 5.04 mmol, 0.877 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | hexane ether | CCCCCC.CCOCC
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | (E,4S)-5-methyl-4-(methylamino)-2-hexenenitrile trifluoroacetic acid | −1.68 mmol | FC(C(=O)O)(F)F.CC([C@@H](/C=C/C#N)NC)C
product | tert-butyl (1S)-1-{[[(1S,2E)-3-cyano-1-isopropyl-2-propenyl](methyl)amino]carbonyl}-2,2-dimethylpropylcarbamate | 200 mg | C(#N)/C=C/[C@H](C(C)C)N(C(=O)[C@H](C(C)(C)C)NC(OC(C)(C)C)=O)C | C19H33N3O3
